US07692005B2
2-Ethyl-5-methyl-2H-pyrazole-3-carboxylic acid (3-{3-[(4-morpholin-4-yl-phenylamino)-methylene]-2-oxo-2,3-dihydro-1H-indole-5-carbonyl}-phenyl)-amide
A small screw cap test tube was charged with 2-Ethyl-5-methyl-2H-pyrazole-3-carboxylic acid [3-(3-hydroxymethylene-2-oxo-2,3-dihydro-1H-indole-5-carbonyl)-phenyl]-amide (prepared below, 30 mg, 0.072 mmol) and THF (1 mL). To the resulting solution was added N-(4-aminophenyl)morpholine (19.3 mg, 0.1082 mmol), and the mixture was stirred for 24 h at 65° C. Subsequently, the reaction mixture was cooled to room temperature, concentrated in vacuo and redissolved in EtOAc. Hexanes were added to the reaction mixture. The solid precipitate that formed was filtered and washed with ˜1 mL of ice cold THF yielding 36% (15 mg, 0.026 mmol) of the title compound.

reactant | 2-Ethyl-5-methyl-2H-pyrazole-3-carboxylic acid [3-(3-hydroxymethylene-2-oxo-2,3-dihydro-1H-indole-5-carbonyl)-phenyl]-amide | 0.072 mmol, 30 mg | OC=C1C(NC2=CC=C(C=C12)C(=O)C=1C=C(C=CC1)NC(=O)C=1N(N=C(C1)C)CC)=O | C23H20N4O4
reactant | N-(4-aminophenyl)morpholine | 0.1082 mmol, 19.3 mg | NC1=CC=C(C=C1)N1CCOCC1 | C10H14N2O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 2-Ethyl-5-methyl-2H-pyrazole-3-carboxylic acid (3-{3-[(4-morpholin-4-yl-phenylamino)-methylene]-2-oxo-2,3-dihydro-1H-indole-5-carbonyl}-phenyl)-amide | N1(CCOCC1)C1=CC=C(C=C1)NC=C1C(NC2=CC=C(C=C12)C(=O)C=1C=C(C=CC1)NC(=O)C=1N(N=C(C1)C)CC)=O | C33H32N6O4
